US08106043B2
tert-Butyl 2-hydroxyethyl(2-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)-2-oxoethyl)carbamate:
A solution of 2-(2-hydroxyethylamino)-1-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanone (300 mg, 1.009 mmol) in THF (15 mL) was treated with Boc anhydride (231 mg, 1.059 mmol) followed by triethylamine (0.422 mL, 3.03 mmol). The yellow solution was stirred at room temperature for 18 hours (overnight). The solution was diluted with EtOAc (20 mL) and treated with saturated sodium bicarbonate solution (20 mL). The mixture was transferred to a separatory funnel and extracted. After extraction, the organic layer was separated, dried (Na2SO4), and filtered through a silica gel plug. The pad was rinsed with EtOAc (10 mL), and the filtrate was concentrated to give a yellow residue. This residue was subjected to silica gel chromatography using the Biotage purification system (column: Silicycle 40 g; 30% EtOAc/70% hexanes gradient to 90% EtOAc/10% hexanes over 10 column volumes; flow rate=35 mL/min; collection wavelength: 254 nm). A yellow residue was obtained after drying under reduced pressure (270 mg, 67.3%). 1H-NMR (CDCl3) (mixture of rotamers) δ 8.15 (dd, J=2.7, 8.1 Hz, 1H), 7.94 (dd, J=2.4, 8.7 Hz, 1H), 7.58 and 7.31 (2×d, J=9.0 Hz, 1H), 4.41 (brs, 1H), 4.12-3.88 (m, 4H), 3.82-3.66 (m, 2H), 3.48 and 3.11 (2×t, J=4.5 Hz, 2H), 3.29 (t, J=4.5 Hz, 2H), 1.46 and 1.40 (2×s, 9H); ESI-MS (m/z, %): 420 (M+Na, 70), 398 (MH+, 40), 298 (100).

reactant | 2-(2-hydroxyethylamino)-1-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanone | 1.009 mmol, 300 mg | OCCNCC(=O)N1C2=C(SCC1)C=C(C=C2)[N+](=O)[O-] | C12H15N3O4S
reactant | Boc anhydride | 1.059 mmol, 231 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 3.03 mmol, 0.422 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | tert-Butyl 2-hydroxyethyl(2-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)-2-oxoethyl)carbamate | OCCN(C(OC(C)(C)C)=O)CC(=O)N1C2=C(SCC1)C=C(C=C2)[N+](=O)[O-] | C17H23N3O6S
